US07812160B2
A solution of methyl {4-methyl-2-[4-(2-naphthoylamino)benzyl]-6-pyrrolidin-1-ylpyrimidin-5-yl}acetate (0.018 g, 0.04 mmol) in THF (1 mL) at room temperature was treated with 1N NaOH (0.5 mL) and the resulting biphasic mixture was stirred at 60° C. for 13 hours. After cooling to room temperature, Et2O was added and the organic layer siphoned off. The remaining aqueous layer was acidified with 6N HCl and the separated solids were collected by suction, rinsed with water, and dried under high vacuum for 4 hours to give {4-methyl-2-[4-(2-naphthoyl-amino)benzyl]-6-pyrrolidin-1-ylpyrimidin-5-yl}acetic acid (0.006 g, 37% yield) as a white solid.

reactant | methyl {4-methyl-2-[4-(2-naphthoylamino)benzyl]-6-pyrrolidin-1-ylpyrimidin-5-yl}acetate | 0.04 mmol, 0.018 g | CC1=NC(=NC(=C1CC(=O)OC)N1CCCC1)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C30H30N4O3
reactant | NaOH | 1N, 0.5 mL | [OH-].[Na+]
reactant | Et2O | CCOCC | C4H10O
reactant | HCl | 6N | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | {4-methyl-2-[4-(2-naphthoyl-amino)benzyl]-6-pyrrolidin-1-ylpyrimidin-5-yl}acetic acid | 0.006 g, 37% yield | CC1=NC(=NC(=C1CC(=O)O)N1CCCC1)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C29H28N4O3
